US04963566
To a solution of 6,7-dihydro-3,7-dioxo-1H,3H,5H-pyrido[3,2,1-ij][3,1]benzoxazine (6.10 g) in methanol (100 ml) were added molecular sieve 3A (12 g), p-toluenesulfonic acid (catalytic amount) and allylamine (50 ml), and the mixture was refluxed overnight. After cooling the reaction mixture, molecular sieve 3A was filtered off and sodium borohydride (1.70 g) was added to the filtrate under ice-cooling, then the mixture was stirred for 1 hour at room temperature. To the reaction mixture was added a small amount of water, and methanol was distilled off. The residue was extracted with dichloromethane and dried over anhydrous magnesium sulfate. After distilling off the solvent, the resulting residue was purified by silica gel column chromatography [eluent: n-hexane-ethyl acetate (3:1)]to give 6,7-dihydro-3-oxo-7-allylamino-1H,3H,5H-pyrido[3,2,1-ij][3,1]benzoxazine (5.89 g).

reactant | 6,7-dihydro-3,7-dioxo-1H,3H,5H-pyrido[3,2,1-ij][3,1]benzoxazine | 6.10 g | O=C1N2C3=C(CO1)C=CC=C3C(CC2)=O | C11H9NO3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | allylamine | 50 ml | C(C=C)N | C3H7N
solvent | methanol | 100 ml | CO | CH4O
product | 6,7-dihydro-3-oxo-7-allylamino-1H,3H,5H-pyrido[3,2,1-ij][3,1]benzoxazine | 5.89 g | O=C1N2C3=C(CO1)C=CC=C3C(CC2)NCC=C | C14H16N2O2
